US07795280B2
e) N-[3-(2-Nitro-phenylsulfanyl)-1-pyrimidin-5-ylmethyl-1H-indol-6-yl]-formamide
[3-(2-Nitro-phenylsulfanyl)-1-pyrimidin-5-ylmethyl-1H-indol-6-yl]-carbamic acid tert-butyl ester (3.8 g, 8.0 mmol) was dissolved in 150 mL of formic acid and stirred for 4 hours. The solution was concentrated in vacuo. NaHCO3-sat was added and the mixture was extracted with CH2Cl2 (2×) The combined organic layers were washed with brine and dried over Na2SO4. The solution was allowed to stand overnight. The formed solid was filtered affording a mixture of compound 118 and structure 23 of Scheme VII, where R1=3,5-pyrimidyl, R2=2-nitrophenyl, R3=R4=H (2.4 g).

reactant | [3-(2-Nitro-phenylsulfanyl)-1-pyrimidin-5-ylmethyl-1H-indol-6-yl]-carbamic acid tert-butyl ester | 8.0 mmol, 3.8 g | C(C)(C)(C)OC(NC1=CC=C2C(=CN(C2=C1)CC=1C=NC=NC1)SC1=C(C=CC=C1)[N+](=O)[O-])=O | C24H23N5O4S
solvent | formic acid | 150 mL | C(=O)O | CH2O2
product | N-[3-(2-Nitro-phenylsulfanyl)-1-pyrimidin-5-ylmethyl-1H-indol-6-yl]-formamide | [N+](=O)([O-])C1=C(C=CC=C1)SC1=CN(C2=CC(=CC=C12)NC=O)CC=1C=NC=NC1 | C20H15N5O3S
